US08835420B2
Step B: 6-Bromo-1-methyl-1H-pyrrolo[3,2-b]pyridine 4-oxide
3-Chloroperbenzoic acid (77 wt %, 3.46 g, 15.4 mmol) was added to a stirred solution of 6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridine (2.96 g, 14.0 mmol) in DCM (60 mL) at 0° C. The reaction mixture was stirred at RT for 4 hours and then concentrated and purified by silica gel chromatography (7% MeOH/DCM) to give the title compound as a brown semi-solid, which was used without further purification (3.8 g). ESI-MS m/z [M+H]+ calc'd for C8H7BrN2O, 227, 229; found 227, 229.

reactant | 3-Chloroperbenzoic acid | 15.4 mmol, 3.46 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridine | 14.0 mmol, 2.96 g | BrC=1C=C2C(=NC1)C=CN2C | C8H7BrN2
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | 6-Bromo-1-methyl-1H-pyrrolo[3,2-b]pyridine 4-oxide | BrC=1C=C2C(=[N+](C1)[O-])C=CN2C | C8H7BrN2O
